US06982348B2
Diethyl 3,4-dihydronaphthalene-1,1 (2H)-dicarboxylate (see J. Org. Chem., 54, 2713-18 (1989)) (5.129 g, 18.56 mmol), sodium chloride (2.17 g, 37.1 mmol) and water (1 ml) were heated in dimethyl sulfoxide (10 ml) at 180° C. for 1.5 days. After cooling to room temperature, water was added, and the mixture was extracted twice with ethyl acetate. The collected organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=15/1) to give a crude product of ethyl 1,2,3,4-tetrahydronaphthalene-1-carboxylate as a yellow liquid. To a solution of the obtained liquid in methanol (20 ml)-tetrahydrofuran (10 ml) was added 1N aqueous sodium hydroxide solution (30 ml, 30 mmol), and the mixture was stirred overnight at room temperature. The reaction solution was concentrated, diluted with water, and washed with diethyl ether. The obtained aqueous solution was acidified with 1N hydrochloric acid and extracted twice with diethyl ether. The collected organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was crystallized from diethyl ether-hexane to give the objective substance.

reactant | Diethyl 3,4-dihydronaphthalene-1,1 (2H)-dicarboxylate | 18.56 mmol, 5.129 g | C1(CCCC2=CC=CC=C12)(C(=O)OCC)C(=O)OCC | C16H20O4
reactant | sodium chloride | 37.1 mmol, 2.17 g | [Cl-].[Na+]
reactant | water | 1 ml | O | H2O
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | ethyl 1,2,3,4-tetrahydronaphthalene-1-carboxylate | C1(CCCC2=CC=CC=C12)C(=O)OCC | C13H16O2
